US06211199B1
Combine 1-(2-ethoxyethyl)-2-chloro-1H-benzimidazole (3.06 g, 13.62 mmol) and ethyl 4-aminopiperidine-1-carboxylate (5.16 g, 30 mmol) and heat to 150° C. After 12 hours, heat to 170° C. After 8 hours, cool the reaction mixture and partition between dichloromethane (150 mL) and water. Separate the layers and extract the organic layer with water. Dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with ethyl acetate/hexane 1/1 to give (1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)(1-ethoxycarbonyl-piperidin-4-yl)amine: Rf=0.15 (silica gel, ethyl acetate/hexane).

reactant | 1-(2-ethoxyethyl)-2-chloro-1H-benzimidazole | 13.62 mmol, 3.06 g | C(C)OCCN1C(=NC2=C1C=CC=C2)Cl | C11H13ClN2O
reactant | ethyl 4-aminopiperidine-1-carboxylate | 30 mmol, 5.16 g | NC1CCN(CC1)C(=O)OCC | C8H16N2O2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | (1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)(1-ethoxycarbonyl-piperidin-4-yl)amine | C(C)OCCN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OCC | C19H28N4O3
